US07915271B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-bromo-2′-methoxy-4-(trifluoromethyl) biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one (500 mg, 0.762 mmol), bis(pinacolato)diboron (388 mg, 1.53 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane adduct (150 mg, 0.184 mmol), potassium acetate (150 mg, 1.53 mmol) and 1,4-dioxane (5 mL) were sealed in a microwave vessel. The reaction mixture was irradiated by microwave to 140° C. for 40 minutes. Additional bis(pinacolato)diboron (388 mg, 1.53 mmol) was added followed by microwave irradiation at 140° C. for 20 minutes. Then additional potassium acetate (150 mg, 1.53 mmol) was added followed by microwave irradiation at 140° C. for 20 minutes. The reaction crude was worked up with water. The resulting mixture was extracted with EtOAc. The combined organic extracts were dried over Na2SO4, filtered, and concentrated to afford a dark solid. The solid was purified by a reverse-phase preparatory HPLC (column: Kromasil 100-5C18, 100×21.1 mm) eluting with a MeCN/H2O gradient mixture to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[2′-methoxy-5′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one as a dark oil. LCMS calc.=703.22; found=704.47 (M+1)+.

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5′-bromo-2′-methoxy-4-(trifluoromethyl) biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | 0.762 mmol, 500 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)Br)OC)C)(F)F | C27H19BrF9NO3
reactant | bis(pinacolato)diboron | 1.53 mmol, 388 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.53 mmol, 150 mg | C(C)(=O)[O-].[K+]
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
reactant | bis(pinacolato)diboron | 1.53 mmol, 388 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.53 mmol, 150 mg | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane | 0.184 mmol, 150 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | O | H2O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[2′-methoxy-5′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)C)(F)F | C33H31BF9NO5
